US03939175
6.95 g (0.02 mol) of 5-(3'5'-di-tert-butyl-4'-hydroxyphenylethyl)-5-methylhydantoin, 1.4 g (0.01 mol) of potassium carbonate and 1.55 g (0.01 mol) of 1,6-dichlorohexane in 30 ml of dimethylformamide are stirred for 20 hours at 100°C under nitrogen. After cooling, the mixture is added slowly to 120 ml of water with stirring. The precipitated solid is removed by filtration, dried and dissolved in 40 ml of ethanol and decolorized with charcoal. The ethanol solution is filtered and the filtrate added to 400 ml of water with stirring to yield a thick, white suspension which is then filtered. 3,3'-Hexamethylene-bis [5(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methylhydantoin] is thus obtained as a white solid of melting point 100°-112°C. (stabiliser No. 22).

reactant | 5-(3'5'-di-tert-butyl-4'-hydroxyphenylethyl)-5-methylhydantoin | 0.02 mol, 6.95 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(NC(N1)=O)=O)C | C20H30N2O3
reactant | potassium carbonate | 0.01 mol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dichlorohexane | 0.01 mol, 1.55 g | ClCCCCCCCl | C6H12Cl2
reactant | water | 120 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3,3'-Hexamethylene-bis [5(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methylhydantoin] | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(N(C(N1)=O)CCCCCCN1C(NC(C1=O)(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)=O)=O)C | C46H70N4O6
